US06410534B1
Step C: N-[7-(Triisopropylsilyloxy)naphthalene-1-carbonyl]glycine methyl ester
To glycine methyl ester hydrochloride (140 mg, 1.12 mmol) in dry DMF (1 mL) under argon were added PYBOP (233 g, 0.45 mmol), 7-(triisopropylsilyloxy)-1-naphthoic acid, as described in Example 30, Step D, (155 mg, 0.45 mmol), and N,N-diisopropylethylamine (0.31 mL, 1.78 mmol). The reaction mixture was stiffed for 3 hrs, then partitioned between CH2Cl2 (50 mL) and H2O (20 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with CH2Cl2-5% EtOAc to yield the desired product as a colorless oil.

reactant | glycine methyl ester hydrochloride | 1.12 mmol, 140 mg | Cl.COC(CN)=O
reactant | PYBOP | 0.45 mmol, 233 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 7-(triisopropylsilyloxy)-1-naphthoic acid | C(C)(C)[Si](OC1=CC=C2C=CC=C(C2=C1)C(=O)O)(C(C)C)C(C)C | C20H28O3Si
reactant | N,N-diisopropylethylamine | 1.78 mmol, 0.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[7-(Triisopropylsilyloxy)naphthalene-1-carbonyl]glycine methyl ester | COC(CNC(=O)C1=CC=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C)=O | C23H33NO4Si
